Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
Bedside Paracentesis ___
___ Paracentesis ___
 
History of Present Illness:
___ with HCV/EtOH cirrhosis and polysubstance misuse with
multiple admissions for volume overload and abdominal pain
presents with abdominal pain since a outpatient therapeutic
paracentisis on ___ which was uncomplicated and removed 2.5L. 

On ___, the patient was seen in ___ clinic where she was
complaining of increasing abdominal girth, tenderness and pain 
on
palpation by prior paracentesis site. She was referred to the
emergency department to rule out SBP. 

The patient endorses a 1 week history of general malaise, 
myalgia
and total body aches in addition to her abdominal pain. She has
occasional faint, chest pain and stable dyspnea. She is without
palpitations. She endorses mild dysuria which is her baseline 
and
has ___ loose bowel movements daily.

In the emergency department a bedside paracentesis was attempted
which withdrew free air. Ascites fluid was negative for SBP.
Given free air on paracentesis and abdominal pain a CT 
abd/pelvis
was obtained to rule out perforation which demonstrated no
perforation or acute process. 

The patient continued to have abdominal pain requiring morphine
for symptomatic relief. 

Her emergency department course was subsequently complicated by
hypotension requiring the administration of saline. 

In the ED, initial VS were:
T 98 HR 88 BP 148/71 R 16 SpO2 100% RA 

Exam notable for:
ABD: impressively distended, caput medusa, tympanic to 
percussion
until lower flanks bilaterally, periubmilical hernia

ECG: Not performed

Labs showed:

137  97  23    
----------< 
3.5  21  0.9 

    9.4  
6.8>---<125  
   30.2  

___: 15.4  PTT: 37.7  INR: 1.4 

ALT: 83 AP: 226 Tbili: 1.6 Alb: 3.4 
AST: 112 

TSH:4.1

Ascites  WBC 268 RBC 1365  13% Poly

Lactate:1.8

Imaging showed:
___ CT Abd & Pelvis W/O Contrast   
1. Enteric contrast is seen diffusely throughout the loops of
small bowel without evidence of extraluminal contrast
extravasation. There is no free air.
2. Cirrhosis with moderate to large volume ascites.
3. Ill-defined hypodensity within the spleen is incompletely
characterized on the current study, similar in appearance to the
prior study.

___ US Abd Limit, Single Organ   
1. Moderate volume ascites, decreased compared to ___.
2. The largest pocket is current located in the midline pelvis,
just below the umbilicus. A slightly smaller pocket of fluid 
also
seen in the right lower quadrant.

Consults: Hepatology agreed with admission to the hepatology
service

Patient received:
___ 19:03 IV Morphine Sulfate 4 mg   
___ 19:03 IV Ondansetron 4 mg   
___ 20:31 IV Morphine Sulfate 4 mg 
___ 23:57 IVF  NS   
___ 00:00 PO Pantoprazole 40 mg   
___ 02:45 IV Morphine Sulfate 2 mg   
___ 02:54 PO/NG Lactulose 30 mL  
___ 05:39 PO/NG Lactulose 30 mL   
___ 06:06 IV Ondansetron 4 mg  
___ 07:43 PO/NG Lactulose 30 mL   
___ 07:58 PO Pantoprazole 40 mg  
___ 07:58 PO/NG amLODIPine 5 mg 
___ 07:58 PO/NG Aspirin 81 mg   
___ 07:58 PO/NG FoLIC Acid 1 mg 
___ 07:58 PO/NG Furosemide 20 mg   
___ 08:34 PO/NG Pregabalin 75 mg 
___ 11:14 IH Fluticasone-Salmeterol Diskus (500/50) 1 INH 

___ 11:14 PO/NG Valsartan 320 mg   
___ 11:14 PO/NG Rifaximin 550 mg   
___ 12:59 IVF  NS  
___ 13:13 IV Ondansetron 4 mg 
___ 14:43 IV Morphine Sulfate 2 mg 
___ 16:54 IV Morphine Sulfate 2 mg  
___ 21:41 PO/NG Mirtazapine 30 mg 
___ 21:41 PO/NG Pregabalin 75 mg 
___ 21:42 PO/NG Lactulose 30 mL 

On arrival to the floor, patient reports continued abdominal 
pain

 
Past Medical History:
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  T 98.5 PO BP 105/65 HR 95 R 18 SpO2 95 RA 
GEN: Chronically ill and fatigued. Noted sarcopenia and temporal
wasting
HEENT: Sclerae anicteric, no tongue asterixis. Dry mucous
membranes
___: RRR II/IV SEM. JVP to angle of jaw at 45 degrees
RESP: No increased WOB, bibasilar crackles without wheezing or
rhonchi
ABD: Tense, distended with caput medusa. L sided ecchymosis with
clean, dry bandage on right abdominal wall. +rebound
EXT: warm, no edema
NEURO: CN II-XII intact. +asterixis

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 855)
    Temp: 98.6 (Tm 98.6), BP: 115/65 (113-144/49-78), HR: 90
(82-98), RR: 18, O2 sat: 98% (93-100), O2 delivery: Ra, Wt:
128.31 lb/58.2 kg  

Fluid Balance (last updated ___ @ 854) 
  Last 8 hours  Total cumulative -600ml
    IN: Total 0ml
    OUT:  Total 600ml, Urine Amt 600ml
  Last 24 hours  Total cumulative -855ml
    IN: Total 420ml, PO Amt 420ml
    OUT:  Total 1275ml, Urine Amt 1275ml  

GEN: Chronically ill and fatigued. Noted sarcopenia and temporal
wasting.
HEENT: Sclerae anicteric, no tongue asterixis. Dry mucous
membranes
CV: NR,RR. II/VI SEM.
RESP: No increased WOB, bibasilar crackles without wheezing or
rhonchi
ABD: Tense, distended. Tender to mild palpation. L sided
ecchymosis with clean, dry bandage on right abdominal wall.
+rebound
EXT: warm, no edema.
NEURO: CN II-XII intact. +asterixis. Gross tremor of BUE.
Finger-to-nose intact bilaterally. 2+ Patellar reflexes. ___
Strength BLE.
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:42AM BLOOD WBC-6.8 RBC-3.46* Hgb-9.4* Hct-30.2* 
MCV-87 MCH-27.2 MCHC-31.1* RDW-19.8* RDWSD-62.1* Plt ___
___ 11:42AM BLOOD ___ PTT-37.7* ___
___ 11:42AM BLOOD UreaN-23* Creat-0.9 Na-137 K-3.5 Cl-97 
HCO3-21* AnGap-19*
___ 11:42AM BLOOD ALT-83* AST-112* AlkPhos-226* 
TotBili-1.6*
___ 01:45AM BLOOD Albumin-3.1* Calcium-8.5 Phos-4.6* Mg-2.2
___ 11:42AM BLOOD %HbA1c-6.3* eAG-134*
___ 11:42AM BLOOD TSH-4.1
___ 11:42AM BLOOD AFP-7.4
___ 11:42AM BLOOD HCV VL-5.9*

DISCHARGE LABS
==============
___ 06:45AM BLOOD WBC-4.5 RBC-2.91* Hgb-8.1* Hct-25.9* 
MCV-89 MCH-27.8 MCHC-31.3* RDW-21.4* RDWSD-65.5* Plt Ct-61*
___ 06:45AM BLOOD ___
___ 06:45AM BLOOD Glucose-170* UreaN-16 Creat-0.9 Na-138 
K-4.6 Cl-103 HCO3-20* AnGap-15
___ 06:45AM BLOOD ALT-34 AST-48* LD(LDH)-212 AlkPhos-156* 
TotBili-0.7
___ 06:45AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.4

URINE
=====
___ 10:45PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 10:45PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD*
___ 10:45PM URINE RBC-3* WBC-9* Bacteri-MOD* Yeast-NONE 
Epi-26 TransE-<1
___ 10:26AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 10:26AM URINE Blood-MOD* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 10:26AM URINE RBC-118* WBC-153* Bacteri-MOD* Yeast-NONE 
Epi-0
___ 10:26AM URINE CastHy-42*

STUDIES
=======
___ US ABD
1.  Moderate volume ascites, decreased compared to ___. 
2.  The largest pocket is currently located in the midline 
pelvis, just below the umbilicus.  A slightly smaller pocket of 
fluid also seen in the right lower quadrant. 

___ CT A/P
1. Enteric contrast is seen diffusely throughout the loops of 
small bowel 
without evidence of extraluminal contrast extravasation.  There 
is no free 
air. 
2. Cirrhosis with moderate to large volume ascites. 
3. Ill-defined hypodensity within the spleen is incompletely 
characterized on the current study, similar in appearance to the 
prior study and likely an infarct. 

___ KUB
No free intraperitoneal air.  No radiographic evidence of bowel 
obstruction or ileus. 

___ US Paracentesis
1. Technically successful ultrasound guided therapeutic 
paracentesis. 
2. 3.4 L of fluid were removed. 

___ ABI
1.  Mild right lower extremity (SFA) and tibia arterial 
insufficiency at rest. 
2.  Moderate aorto-left iliac and left tibial arterial 
insufficiency at rest. 

___ Hip XR
Mild degenerative changes in the bilateral hip joints. 

___ MRI Thoracic/Lumbar
1. There is no high-grade spinal canal or neural foraminal 
narrowing of the thoracic or lumbar spine.  No compression of 
the cord or cauda equina. 
2. Degenerative changes are most prominent at L5-S1 where a 
right eccentric disc bulge crowds the right greater than left 
subarticular zone contacting but not posteriorly displacing the 
traversing right S1 nerve root. 
3. There is 9 mm long segment of T2 hyperintense central cord 
signal at the T1 level on sagittal sequences, not seen on prior 
examinations and not confirmed on motion degraded axial 
sequences.  This could represent syringohydromyelia or prominent 
central canal of uncertain clinical significance.  This could be 
further evaluated with contrast enhanced study. 
4. Additional findings described above including sequela of 
known cirrhosis. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old lady with HCV/EtOH cirrhosis 
who presented with abdominal pain after elective paracentesis, 
developed transient urinary retention, and continued to have 
chronic pain.

# Decompensated HCV/EtOH Cirrhosis
# Hepatic encephalopathy
Known history of grade 1 varices, ascites and hepatic 
encephalopathy. No h/o SBP or GIB. Sent from Liver clinic to ED 
after c/o abdominal pain 1 week after therapeutic paracentesis. 
Mild asterixis and volume overload noted. Flu negative. Reported 
last alcohol 1 month ago. Liver U/S with patent vasculature. 
Diagnostic bedside paracentesis performed, negative for SBP. 
Continued on rifaximin, lactulose. Therapeutic paracentesis 
performed with 3L removed. Given albumin 25g x1, then 50g x2. 
Attempted repeat paracentesis, but insufficient fluid to 
successfully drain. Held home furosemide/spironolactone.

# Abdominal Pain
# Chronic Pain
# Polysubstance misuse disorder
History of chronic pain. On tramadol, pregabalin, and APAP at 
home. Last underwent paracentesis ___ and complained of 
abdominal pain afterwards. Multiple similar admission. Over the 
course of the admission, with further discussion it seems the 
pain is severe, but longstanding. Notes "bone pain" throughout, 
R hip locking, mandible pain, and abdominal pain. Also notes 
pain/odd sensation with urination and defection which she 
reports has been present since before the admission. Consulted 
dental and obtained panorex which showed no infection. Consulted 
chronic pain and trialed cyclobenzaprine and baclofen, however 
both were discontinued due to urinary retention. Continued on 
tramadol, tylenol, pregabalin, and lidocaine patch. At time of 
discharge, pain at baseline from prior to admission.

# Urinary Retention
Noted new inability to urinate with high bladder scans. Foley 
catheter placed after several straight cath attempts. Also 
complained of new fecal incontinence to RN and thigh numbness. 
Sensation intact on exam and rectal tone present, but obtained 
MRI spine which showed no signs of cord compression. Stopped 
cyclobenzaprine, Dilaudid, loratidine, baclofen. Urology 
consulted and recommended home w/ foley for ___ days, but then 
she briefly was able to void on her own. Retention presumed ___ 
med effect from cyclobenzaprine and/or baclofen but also may be 
a component of neurogenic bladder given neuropathy elsewhere. 
Repeat retention on day of discharge. ___ placed to remain in 
with urology follow-up.

# Acute Kidney Injury
Baseline Cr 0.7-0.8. Admission Cr 1.1 likely representing 
significant decrease in GFR due to patient's size and lack of 
muscle mass. No hyponatremia or hydronephrosis. Cr peaked at 
1.4, then improved s/p 2 day of 1mg/kg albumin. Held home 
furosemide.

# T2 Hyperintense Signal
9mm segment of T2 hyperintensity noted in the central cord at 
the T1 level on Thoracic MRI, not seen on previous exams and not 
confirmed on axial sequences. Could be syringohydromyelia or 
prominent central canal; unclear clinical significance. No 
notable dermatomal sensory or strength deficits. Deferred 
further evaluation, which could be done with a contrast-enhanced 
MRI.

CHRONIC ISSUES
==============
# Severe Protein Malnutrition
Patient with temporal wasting and sarcopenia on exam with 
reported decreased PO intake. Nutrition consulted. Provided 
supplements with meals.

# Anemia
Stable, without signs of active bleeding.

# Thrombocytopenia
# Coagulopathy
Due to underlying cirrhosis. At baseline.

# h/o HTN
Losartan and amlodipine held on last admission for soft blood
pressures. BPs not elevated. Held antihypertensives

# COPD
Stable. Continued home inhalers.

# GERD
Continued home PPI.

TRANSITIONAL ISSUES
===================
[ ] Consider MRI T Spine with contrast to evaluate signal 
abnormality of unclear clinical significance noted on MRI.
[ ] Should follow up with urology given persistent urinary 
retention.
[ ] Developed acute urinary retention in setting of 
cyclobenzaprine and baclofen use. Should avoid using these 
medications in the future.
[ ] If persistent mandibular pain, consider dental appointment 
and adjustment of dentures.
[ ] Volume overloaded, but unable to perform paracentesis 
inpatient. Likely will need short-interval paracentesis.
[ ] Held diuretics on discharge due to rising creatinine every 
time attempted to restart diuretics. Assess at f/u appointment 
and restart if indicated.
[ ] Discharged with foley in place and urology follow-up for 
retention. Foley placed ___.

#CODE: Full 
#CONTACT: Fiance, ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. HydrOXYzine 25 mg PO BID:PRN itch 
6. Loratadine 10 mg PO DAILY allergies 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
9. Pantoprazole 40 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY 
11. Rifaximin 550 mg PO BID 
12. Simethicone 40-80 mg PO QID 
13. Simvastatin 20 mg PO QPM 
14. Thiamine 100 mg PO DAILY 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
17. Ferrous GLUCONATE 324 mg PO DAILY 
18. TraZODone 50 mg PO QHS:PRN insomnia 
19. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
20. Pregabalin 75 mg PO BID 
21. FoLIC Acid 1 mg PO DAILY 
22. Zinc Sulfate 220 mg PO DAILY 
23. Lactulose 30 mL PO TID 
24. Nystatin Oral Suspension 5 mL PO QID 
25. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H  
2.  Zinc Sulfate 220 mg PO DAILY  
3.  Pregabalin 150 mg PO BID  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
5.  Aspirin 81 mg PO DAILY  
6.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
7.  Ferrous GLUCONATE 324 mg PO DAILY  
8.  Fluticasone Propionate NASAL 1 SPRY NU BID  
9.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
10.  FoLIC Acid 1 mg PO DAILY  
11.  HydrOXYzine 25 mg PO BID:PRN itch  
12.  Lactulose 30 mL PO TID  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Nystatin Oral Suspension 5 mL PO QID  
15.  Pantoprazole 40 mg PO Q12H  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Rifaximin 550 mg PO BID  
18.  Simethicone 40-80 mg PO QID  
19.  Simvastatin 20 mg PO QPM  
20.  Thiamine 100 mg PO DAILY  
21.  Tiotropium Bromide 1 CAP IH DAILY  
22.  TraMADOL (Ultram) 50 mg PO TID:PRN pain  
23.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Decompensated Hepatitis C/Alcohol Cirrhosis
Volume Overload
Hepatic Encephalopathy

SECONDARY DIAGNOSES
===================
Claudication
Urinary Retention
Chronic Pain
Acute Kidney Injury
Severe Protein Malnutrition
Anemia
Thrombocytopenia
Chronic Obstructive Pulmonary Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were having increased abdominal pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- We looked at the fluid in your abdomen and saw that you did 
not have an infection.
- We drained some fluid, but were unable to drain it a second 
time.
- We got x-rays of your hips which showed arthritis.
- We got x-rays of your jaw and had the dentist see you and they 
said there was no infection.
- We got an MRI of your back because you were having difficulty 
peeing and it showed no compression of your spinal cord.
- We had to place a urinary drainage catheter as you were unable 
to reliably empty your bladder, if you should start having any 
new symptoms or if the catheter is not functioning please 
contact urology or come to the emergency room. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___